US07691882B2
5-(3-(6-Benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine
To a tetrahydrofuran (7.00 mL) solution of (2-benzyloxy-pyridin-5-yl)-acetohydroximoyl chloride (191 mg, 0.690 mmol) described in Manufacturing Example 12-1-5 and 5-ethynyl-pyridin-2-ylamine (40.0 mg, 0.339 mmol) described in Manufacturing Example 28-1-3 was added triethylamine (142 μL, 1.02 mmol) under nitrogen atmosphere at room temperature, which was stirred for 3 hours at 60° C. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:1→2:1) to obtain the title compound (15.7 mg, 12.9%).

reactant | tetrahydrofuran | 7.00 mL | O1CCCC1 | C4H8O
reactant | (2-benzyloxy-pyridin-5-yl)-acetohydroximoyl chloride | 0.690 mmol, 191 mg | C(C1=CC=CC=C1)OC1=NC=C(C=C1)CC(=NO)Cl | C14H13ClN2O2
reactant | 5-ethynyl-pyridin-2-ylamine | 0.339 mmol, 40.0 mg | C(#C)C=1C=CC(=NC1)N | C7H6N2
reactant | triethylamine | 1.02 mmol, 142 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 5-(3-(6-Benzyloxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2-ylamine | 15.7 mg, 12.9% | C(C1=CC=CC=C1)OC1=CC=C(C=N1)CC1=NOC(=C1)C=1C=CC(=NC1)N | C21H18N4O2
